US08703922B2
Synthesis of mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)erythritol
Under reduced pressure of 60-70 mmHg and nitrogen gas stream, 199 g (0.564 mol) of methyl 5,9,13,17-tetramethyloctadec-4-enoate was slowly added dropwise to a solution of 191 g (1.56 mol) of erythritol and 1.58 g (1.15 mmol) of potassium carbonate in dry N,N-dimethylformamide (700 mL) at 78-83° C. After the reaction mixture was stirred at the same temperature for 10 hours, formic acid was added at 75° C. to adjust the pH to 4. After the resulting solution was subjected to vacuum concentration, the residue was diluted with t-butylmethylether (1.5 L), and the insoluble matter generated was separated by filtration. The filtrate was washed with 10% sodium bicarbonate aqueous solution twice, and decolorized with activated carbon (8 g). After filtration, the filtrate was concentrated, and the residue was dissolved in ethanol, followed by filtration through cellulose powder. After the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate mixture) to obtain the title compound.

reactant | methyl 5,9,13,17-tetramethyloctadec-4-enoate | 0.564 mol, 199 g | CC(=CCCC(=O)OC)CCCC(CCCC(CCCC(C)C)C)C | C23H44O2
reactant | erythritol | 1.56 mol, 191 g | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | potassium carbonate | 1.15 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | formic acid | C(=O)O | CH2O2
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)erythritol | CC(=CCCC(=O)OC[C@H](O)[C@H](O)CO)CCCC(CCCC(CCCC(C)C)C)C | C26H50O5
